US07994185B2
N-[5-(2-(1,1-Dimethylethyl)-5-{2-[(2-methylpropyl)amino]-4-pyrimidinyl}-1,3-thiazol-4-yl)-2-fluorophenyl]-2,6-difluorobenzenesulfonamide
Following a procedure analogous to the procedure described in Example 18, Step B using N-{5-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide (200 mg, 0.371 mmol) and isobutylamine (0.372 mL, 3.71 mmol) the title compound was obtained as an off-white foam (90 mg, 42% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 10.88 (s, 1H), 8.03 (d, J=5.1 Hz, 1H), 7.61-7.78 (m, 1H), 7.26-7.42 (m, 3H), 7.14-7.27 (m, 3H), 6.04-6.22 (m, 1H), 2.89-3.07 (m, 2H), 1.72-1.85 (m, 1H), 1.37 (s, 9H), 0.82 (d, J=6.4 Hz, 6H). MS (ESI): 576.2 [M+H]+.

reactant | N-{5-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide | 0.371 mmol, 200 mg | ClC1=NC=CC(=N1)C1=C(N=C(S1)C(C)(C)C)C=1C=CC(=C(C1)NS(=O)(=O)C1=C(C=CC=C1F)F)F | C23H18ClF3N4O2S2
reactant | isobutylamine | 3.71 mmol, 0.372 mL | C(C(C)C)N | C4H11N
product | N-[5-(2-(1,1-Dimethylethyl)-5-{2-[(2-methylpropyl)amino]-4-pyrimidinyl}-1,3-thiazol-4-yl)-2-fluorophenyl]-2,6-difluorobenzenesulfonamide | CC(C)(C)C=1SC(=C(N1)C=1C=CC(=C(C1)NS(=O)(=O)C1=C(C=CC=C1F)F)F)C1=NC(=NC=C1)NCC(C)C | C27H28F3N5O2S2
